US04337341
4a-(3-Methoxyphenyl)-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine was hydrogenated in the presence of palladium suspended on charcoal according to the procedure set forth in Example 21 to provide 4a-(3-methoxyphenyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine. B.P. 145°-160° C., 0.05 torr.

reactant | 4a-(3-Methoxyphenyl)-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | COC=1C=C(C=CC1)C12CCN(CC2CCC1)CC1=CC=CC=C1 | C22H27NO
catalyst | palladium | [Pd] | Pd
product | 4a-(3-methoxyphenyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | COC=1C=C(C=CC1)C12CCNCC2CCC1 | C15H21NO
